US07915271B2
Step E 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-2,6′-difluoro-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic Acid
methyl 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-2,6′-difluoro-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (50 mg, 0.067 mmol), lithium hydroxide monohydrate (28 mg, 0.67 mmol), water (1 mL) and 1,4-dioxane (2 mL) were stirred at room temperature for 2.5 hours. LCMS of aliquot indicated formation of the desired product and complete consumption of starting material. Crude mixture was acidified (1N HCl, aq.). Volatiles were removed under reduced pressure. Pot residue was dissolved in MeCN and purified by a reverse-phase prep-HPLC (Kromasil 100-5C18, 100×21.1 mm) eluting w/MeCN (0.1% TFA, v/v)/H2O (0.1% TFA, v/v). Corresponding fractions were pooled and evaporated in vacuo to afford a mixture. The resulting mixture was extracted with EtOAc. The separated organic phases were back washed w/water, separated, dried/Na2SO4, filtered and evaporated to afford the title compound. LCMS (ESI) calc.=733.13; found=734.14 (M+1)+. 1H NMR (CDCl3, 500 MHz, 1:1 mixture of atropisomers): δ 7.95 (t, J=6 Hz, 1H), 7.89-7.83 (m, 2H), 7.73 (s, 0.5H), 7.71 (s, 1H), 7.68-7.64 (m, 2H), 7.62 (s, 0.511) 7.58 (t, J=7 Hz, 0.5H), 7.53 (t, J=7.5 Hz, 0.5H), 7.42 (d, J=8 Hz, 0.5H), 7.39 (d, J=8 Hz, 0.5H), 7.31-7.23 (m, 1H), 6.89 (d, J=4 Hz, 0.5H), 6.87 (d, J=3.5 Hz, 0.5H), 5.61 (d, J=8 Hz, 0.5H), 5.29 (d, J=8 Hz, 0.5H), 5.05 (d, J=16 Hz, 0.5H), 4.93 (d, J=16 Hz, 0.5H), 4.16 (d, J=16.5 Hz, 0.5H), 3.94 (d, J=16 Hz, 0.5H), 3.89 (s, 1.5H), 3.87 (s, 1.5H), 3.85-3.72 (m, 1H), 0.59 (d, J=7 Hz, 1.5H), 0.43 (d, J=6 Hz, 1.5H).

reactant | methyl 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-2,6′-difluoro-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.067 mmol, 50 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C(=CC1OC)F)C1=C(C=C(C=C1)C(=O)OC)F)C)(F)F | C35H24F11NO5
reactant | lithium hydroxide monohydrate | 0.67 mmol, 28 mg | O.[OH-].[Li+]
reactant | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-2,6′-difluoro-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic Acid | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C(=CC1OC)F)C1=C(C=C(C=C1)C(=O)O)F)C)(F)F | C34H22F11NO5
